US07932262B2
Step 4. 7-Bromoquinazolin-2-ol
A mixture of 2-amino-4-bromobenzaldehyde (1 eq) and urea (14 eq) was heated to 180° C. in an oil bath under Argon for 1 h. Water was added to after cooling to ambient temperature. The solid was collected by filtration and air dried to give product in 95% yield. ES/MS m/z 225/227 (MH+).

reactant | 2-amino-4-bromobenzaldehyde | 1 eq | NC1=C(C=O)C=CC(=C1)Br | C7H6BrNO
reactant | urea | 14 eq | NC(=O)N | CH4N2O
solvent | Water | O | H2O
product | 7-Bromoquinazolin-2-ol | 95% yield | BrC1=CC=C2C=NC(=NC2=C1)O | C8H5BrN2O
